US06069177
(2RS,3RS)-3-hydroxy-2,3-diphenylpropionitrile
Reaction of phenylacetonitrile and benzaldehyde on a 15 mmol scale according to the procedure in Example 1, and recrystallization from toluene/hexane gave 1.81 g of the desired anti-aldol product (53%). NMR (1H, 13C), IR, and Mass spectra were consistent with the structure assigned previously by Wade et al. (J. Org. Chem. 52, 2973-2977 (1987)).

reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (2RS,3RS)-3-hydroxy-2,3-diphenylpropionitrile | 53% | OC(C(C#N)C1=CC=CC=C1)C1=CC=CC=C1 | C15H13NO
